US04457866
18.3 g (50 mmoles) of H-Phe-pNa.
Br, 15.5 g (50 mmoles) of Boc-Arg-OH.HCl and 6.75 g (50 mmoles) of HOBt are dissolved in 150 ml of dimethylformamide, the solution is cooled to 0° C. and 10.3 g (50 mmoles) of dicyclohexylcarbodiimide and 13.9 ml of N-ethylmorpholine are added. After a reaction time of 16 hours, the precipitate which has separated out is filtered off and the filtrate is evaporated to dryness. The residue is partitioned between NaHCO3 solution and ethyl acetate, the ethyl acetate extract is evaporated, the residue is dissolved in tetrahydrofuran and the product is precipitated with ether.

reactant | Boc-Arg-OH.HCl | 50 mmoles, 15.5 g | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C.Cl
reactant | HOBt | 50 mmoles, 6.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dicyclohexylcarbodiimide | 50 mmoles, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-ethylmorpholine | 13.9 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | H-Phe-pNa | C1=CC=C(C=C1)C[C@@H](C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])N | C15H15N3O3
